US08017779B2
7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline (0.5 g), copper(I) iodide (0.046 g), (+)-trans-1,2-diaminocyclohexane (0.030 mL), 2-pyrrolidinone (0.122 mL), potassium phosphate (0.55 g) and dioxane (1.2 mL) were added to a 2 dram vial with a stir bar. The vial was flushed with nitrogen, sealed with a Teflon-lined cap, placed in an oil bath, and heated at 110° C. for 16 hours. The reaction was cooled to ambient temperature and then diluted with chloroform and water. The layers were separated and the aqueous fraction was extracted with chloroform. The combined organic fractions were sequentially washed with water and saturated aqueous sodium chloride; dried over anhydrous sodium sulfate; filtered and concentrated under reduced pressure. The residue was purified by column chromatography on a Biotage Horizon™ High-Performance Flash Chromatography instrument using a silica gel cartridge. The polar component of the eluent was chloroform:methanol:ammonium hydroxide 80:18:2 (CMA). The purification was carried out eluting with chloroform:CMA in a gradient from 99:1 to 80:20. 1-[2-Ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one was isolated as a yellow oil which solidified over time (0.38 g).

reactant | 7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | 0.5 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | (+)-trans-1,2-diaminocyclohexane | 0.030 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 2-pyrrolidinone | 0.122 mL | N1C(CCC1)=O | C4H7NO
reactant | potassium phosphate | 0.55 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper(I) iodide | 0.046 g | [Cu]I
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 1-[2-Ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)N2C(CCC2)=O)N1)CCCOC(C)C | C23H30N4O3
